US07897767B2
Hydrazine (20 mL) was added to a stirred suspension of 2-{[4-amino-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methoxy}-1H-isoindole-1,3(2H)-dione (14.0 g, 32.4 mmol) in ethanol (100 mL). The mixture was stirred at room temperature and after 5 minutes a solution formed. After 1 hour, a solid began to form and additional ethanol (100 mL) was added. After 4.5 hours, the solid was isolated by filtration, washed with dichloromethane, and dried to yield 9.30 g of 1-{4-amino-2-[(aminooxy)methyl]-1H-imidazo[4,5-c]quinolin-1-yl}-2-methylpropan-2-ol as a yellow solid, some of which was used without further purification in the next step. Two batches of the product (6.63 g and 1.00 g) were purified by chromatography using a HORIZON HPFC system (silica gel, gradient elution with 5-15% of 2 M NH3 in methanol/chloroform) to provide 4.45 g and 650 mg of 1-{4-amino-2-[(aminooxy)methyl]-1H-imidazo[4,5-c]quinolin-1-yl}-2-methylpropan-2-ol as a yellow solid, respectively. Some of the chromatographed product (650 mg) was crystallized from acetonitrile to yield 377 mg of 1-{4-amino-2-[(aminooxy)methyl]-1H-imidazo[4,5-c]quinolin-1-yl}-2-methylpropan-2-ol as pale yellow crystals, mp 178.0-179.0° C.

reactant | Hydrazine | 20 mL | NN | H4N2
reactant | 2-{[4-amino-1-(2-hydroxy-2-methylpropyl)-1H-imidazo[4,5-c]quinolin-2-yl]methoxy}-1H-isoindole-1,3(2H)-dione | 32.4 mmol, 14.0 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(C)O)CON2C(C1=CC=CC=C1C2=O)=O | C23H21N5O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-{4-amino-2-[(aminooxy)methyl]-1H-imidazo[4,5-c]quinolin-1-yl}-2-methylpropan-2-ol | 9.30 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CC(C)(O)C)CON | C15H19N5O2
